US09278983B2
To a pressure-resistant reaction container, 5-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (1.74 g), copper (II) acetylacetone (0.26 g), acetylacetone (0.50 g), cesium carbonate (3.25 g), NMP (9 ml), and 28% of aqueous ammonia (4 ml) were added, and stirred at 120° C. for 6 hours. The mixture was cooled to room temperature, and then saturated aqueous ammonium chloride solution was poured, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 1.20 g of 6-amino-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 125).

reactant | 5-bromo-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 1.74 g | BrC1=CC=C2C(=N1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H14BrN3S
reactant | acetylacetone | 0.50 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | cesium carbonate | 3.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ammonia | 4 ml | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | copper (II) acetylacetone | 0.26 g | C(C)(=O)CC(C)=O.[Cu+2]
solvent | NMP | 9 ml | CN1CCCC1=O | C5H9NO
product | 6-amino-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 1.20 g | NC=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C15H16N4S
